US06093732
3-(Benzylsulfanyl)aniline
To a cold (0° C.), stirred slurry of 1.7 g of sodium hydride oil dispersion (60%) in 100 mL of dry THF, under argon, is added via cannula 4.95 g of 3-aminothiophenol in 5 mL of THF. After 5 min, 4.6 mL of benzyl chloride is added. The mixture is allowed to warm to room temperature and stirred for 18 h, then cooled to 0° C. and partitioned between water and diethyl ether. The organic phase is washed with water and brine, dried (Na2SO4), and concentrated under reduced pressure. Flash chromatography of the residual oil on silica using 30% ethyl acetate in heptane provides 7.57 g of the title compound as a beige crystalline solid, which may be recrystallized from ether-hexane.

reactant | sodium hydride oil dispersion | 1.7 g | [H-].[Na+]
reactant | 3-aminothiophenol | 4.95 g | NC=1C=C(C=CC1)S | C6H7NS
reactant | benzyl chloride | 4.6 mL | C(C1=CC=CC=C1)Cl | C7H7Cl
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 3-(Benzylsulfanyl)aniline | 7.57 g | C(C1=CC=CC=C1)SC=1C=C(N)C=CC1 | C13H13NS
